US08471005B2
Into a 500 mL beaker, 1-(3-Benzoyl-thioureido)-4-bromo-1H-pyrrole-2-carboxylic acid methyl ester (31.20 g, 0.08162 mol) and 2.00 M of Sodium hydroxide in Water (164 mL, 0.327 mol) were added. The mixture was heated at 85° C. for 75 minutes. The reaction was cooled to RT. The solid was dissolved with Ethanol (100 mL). Acetic acid (18.8 mL, 0.332 mol) was added at 0° C. and stirred for 30 minutes. The solid was filtered and washed with cold EtOH (50 mL) to afford a white solid. The white solid was stirred in Et2O (300 mL) for 20 minutes. The solid was filtered and washed with Et2O (200 mL) to give 6-Bromo-2-thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one as a white solid. The white solid was dried under vacuum over night (11.6, 57%).

reactant | 1-(3-Benzoyl-thioureido)-4-bromo-1H-pyrrole-2-carboxylic acid methyl ester | 0.08162 mol, 31.20 g | COC(=O)C=1N(C=C(C1)Br)NC(=S)NC(C1=CC=CC=C1)=O | C14H12BrN3O3S
reactant | Sodium hydroxide | 2.00 M | [OH-].[Na+]
reactant | Water | 0.327 mol, 164 mL | O | H2O
reactant | Acetic acid | 0.332 mol, 18.8 mL | C(C)(=O)O | C2H4O2
solvent | Et2O | 300 mL | CCOCC | C4H10O
solvent | Ethanol | 100 mL | C(C)O | C2H6O
product | 6-Bromo-2-thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one | BrC=1C=C2C(NC(NN2C1)=S)=O | C6H4BrN3OS
